Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"It's the same thing over and over again" 

 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
For further details of the history and presentation, please see 
OMR, including initial evaluation by Dr. ___ dated 
___ and Dr. ___. 
. 
Briefly, this is a ___ year old homeless man with unclear 
psychiatric diagnosis, previously diagnosed with mood disorder, 
PTSD, s/p numerous psychiatric hospitalizations with recent 
discharge from ___ who presented to ___ ED after making 
suicidal statements at his homeless shelter. 
. 
Upon initial interview, patient reported struggling with 
intermittent depression for approximately ___ years, stating his 
mother was diagnosed with cancer about ___ years ago. At that 
time, he left his job in ___ and moved to ___ to care 
for her; in this time he ran out of money and she passed away. 
Patient reported her death was very hard for him, and that he 
was disappointed when his mother's illness did not bring his 
family together, with he and his siblings remaining estranged. 
. 
Since his mother's passing, patient reported struggling, stating 
he has been homeless on and off for the past ___ years and cannot 
maintain a job with 6 hospitalizations in the past ___ years. 
Reported feeling increasingly depressed and hopeless, stating, 
"it's never going to get better." Reported new panic attacks 
since staying at the ___. Reported SI and stated he 
had been researching methods of killing himself. 
.
Per collateral from BEST: 
- ___ presented to ___ - no assessment
- ___ presented to ___ - sent to CCS; PTSD, moderate MDD, 
with question of cluster B personality disorder 
- ___ presented to ___ - inpatient to ___ JP
- ___ presented to ___ walk in - requesting 
housing options
- ___ presented to ___ - partial hospitalization
- ___ presented to ___ requesting help with 
housing-natural and community support 
-No presentations prior to this
.
ED Course: Patient initially calm and cooperative but on morning 
of admission became agitated for unclear reasons, screaming at 
nurses. ___ chemical restraint with Haldol 5 mg/Ativan 2 
mg.
. 
On my interview with Mr. ___, who was quite irritable and a 
vague historian, with his head down on a table throughout the 
majority of the exam, he reported he is here because "the same 
thing keeps repeating over and over again." When asked to 
elaborate, patient stated, "I'm homeless, I have no money, I 
have
no support system." Confirmed he has been homeless for the past 
___ years and stated his circumstances declined following the 
death of his mother to cancer as noted in the HPI. Reported that 
following the death of his mother he "realized how lonely I am, 
how I didn't have any friends, savings or money." Reported he 
has "tried to get a job, tried finding new friends, and tried
different groups and nothing works." In the setting of 
homelessness and  apparent loneliness, patient reported chronic 
suicidal ideation, stating that "I've been planning over the 
long term how to do it" but denied any specific plans, stating, 
"I want to make sure I get it right." When asked why he has not 
tried to kill himself in the past, he stated, "that's a sick 
question" and then went on to state he did not know why. 
. 
When asked what happened in the ED that led to a restraint, 
patient stated that he had asked for water and that the nurses 
did not respond quickly enough. Stated that no one is able to 
help him and that he does not trust anyone. When I pointed out 
that in order to help him, he would have to communicate his 
emotions and needs, the patient became more irritable, stating, 
"I've tried that... nothing is going to help... don't you 
understand I have PTSD?" However, he would not elaborate on what 
his symptoms or experience of his reported PTSD was like. 
Declined initiation of medications, stating nothing has been 
helpful. Stated he would be more willing to stay if he had a 
private bedroom. Of note, patient stated he lost his insurance 
recently. 
. 
Due to patient non-cooperation, psychiatric review of systems 
was deferred on my examination. However, per Dr. ___ 
___ consultation note patient endorsed insomnia, fatigue, 
loss of appetite, ruminations, panic attacks, nightmares, 
flashbacks. Denied intrusive thoughts, distractabiltiy, 
erratic/risk
behaviors, grandiosity, flight of ideas, increased activity, 
AVH, paranoia. 

 
Past Medical History:
Past Psychiatric History: 
- Diagnoses: per OMR, MDD, PTSD, bipolar per patient report 
- SA/SIB: denies/denies
- Hospitalizations: s/p 6 prior hospitalizations with 5 in
___ and last hospitalization in ___ at ___ 
- Psychiatrist: none 
- Therapist: none 
- Med Trials: Prozac, Lexapro, Celexa, Effexor, Seroquel 
.
Past Medical History: 
- IBS
- Denies history of head trauma and seizures 

 
Social History:
Substance History:  
- Alcohol: Denies
- Illicits: denies 
- Tobacco: denies 
.

Social History: ___
Family History:
Family History: 
- Diagnoses; Denies
- Suicides: Denies 
- Addictions: endorses extensive
 
Physical Exam:
Patient refused physical examination 
 
Pertinent Results:
___ 12:07AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 12:01AM   GLUCOSE-105* UREA N-13 CREAT-0.7 SODIUM-140 
POTASSIUM-4.1 CHLORIDE-103 TOTAL CO2-24 ANION GAP-13
___ 12:01AM   estGFR-Using this
___ 12:01AM   ALT(SGPT)-11 AST(SGOT)-21 LD(LDH)-182 ALK 
PHOS-91 TOT BILI-0.2
___ 12:01AM   ALBUMIN-4.1 CHOLEST-156
___ 12:01AM   VIT B12-536
___ 12:01AM   TRIGLYCER-108 HDL CHOL-59 CHOL/HDL-2.6 
LDL(CALC)-75
___ 12:01AM   TSH-2.1
___ 12:01AM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
tricyclic-NEG
___ 12:01AM   WBC-6.4 RBC-4.47* HGB-14.3 HCT-42.0 MCV-94 
MCH-32.0 MCHC-34.0 RDW-12.4 RDWSD-42.8
___ 12:01AM   NEUTS-35.1 ___ MONOS-9.5 EOS-2.8 
BASOS-0.8 IM ___ AbsNeut-2.25 AbsLymp-3.31 AbsMono-0.61 
AbsEos-0.18 AbsBaso-0.05
___ 12:01AM   PLT COUNT-234
 
Brief Hospital Course:
This is a ___ year old homeless man with unclear psychiatric 
diagnosis, previously diagnosed with mood disorder, PTSD, s/p 
numerous psychiatric hospitalizations with recent discharge from 
___ who presented to ___ ED after making suicidal 
statements at his homeless shelter. 
. 
History and presentation concerning for reported history of 
depressive symptoms beginning approximately ___ years ago in the 
setting of losing his mother to cancer with subsequent 
disappointment that his family did "not come together." In the 
setting of ongoing homelessness, unemployment and loneliness, 
patient initially reported worsening depression, SI, with 
reported NVS. Collateral from BEST concerning for possible 
underlying character pathology. 
. 
My interview with patient was limited secondary to uncooperative 
nature of patient, demonstrating help seeking and help rejecting 
behaviors. Patient admitted to repetitive nature of presenting 
to hospitals and stated that nothing has helped him in the past, 
refusing to elaborate on his experience or symptoms with this 
clinician. Notably, does not appear dysthymic or dysphoric on my 
examination, and  patient did state that he will state he is 
suicidal "because saying I'm in distress isn't enough to get you 
help." Nothing in his history or mental status examination to
suggest a history of mania and he is certainly not manic on my 
examination. No evidence to suggest a history of psychosis and 
he is not psychotic on my examination. Most likely etiology 
presentation is secondary to decompensated cluster B traits, 
although I cannot rule out an underlying MDD episode given his 
uncooperative nature nor can I rule out PTSD/complex trauma. 
Given young age and good health, an underlying medical condition 
is unlikely to be contributing to this presentation. Patient 
denies history of drug or alcohol abuse and tox screen was
negative. 
. 
#. Legal/Safety: patient admitted to ___ on a ___, upon admission he refused to sign a CV. Patient maintained 
his safety on 15 minute checks and did not require physical or 
chemical restraints.  
. 
#. Depression: as noted above
- Patient declined to participate in his care during this 
hospitalization, refusing groups, physical examination, 
laboratory work and to discuss the circumstances that led to his 
hospitalization. He was noted to be significantly help seeking 
and help rejecting as noted above, irritable at times. Reported 
to this clinician that he is alone because "no one can handle 
how I am because I tell it like it is." Given lack of evidence 
of major depressive episode, mania, psychosis, on my 
examination, again, I feel presentation is likely secondary to 
character pathology. Attempted to obtain collateral, but patient 
refused. 
- Of note, patient also declined all psychotropic medications 
during this admission. He denied suicidal ideation and thoughts 
of self harm and was in adequate behavioral control during his 
hospitalization. Given this and his desire to not be in the 
hospital with refusal of all psychiatric care, I did not feel he 
met ___ criteria at this time and thus he was discharged 
prior to expiration of his ___. 
- Of note, although I do believe Mr. ___ is at chronically 
elevated risk of suicide given male sex, homelessness, history 
of depression, poor psychosocial functioning, and limited 
supports, he does have a number of strengths: he is intelligent, 
has demonstrated the ability to seek help when distressed, and 
is educated. Given his denial of SI and thought process that is 
notably linear, logical, goal and future oriented, he is not at 
acutely elevated risk for suicide at this time. 
. 
#. Medical: no active medical issues during this hospitalization 


 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
None: patient declined all psychotropic medications 
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Unspecified mood disorder 
Unspecified personality disorder 

 
Discharge Condition:
VS: Patient refused vital signs 
A/B: Appears stated age, in bed, refusing to engage with this 
clinician, limited eye contact, no psychomotor agitation or 
retardation noted
S: normal rate, volume, prosody 
M: 'fine' 
A: euthymic, appropriate
TC: denies SI/HI, AVH
TP: linear, logical, goal and future oriented
C: awake, alert and oriented x3 
I/J: limited/limited 

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___